*********************************************************
*** NGSPICE file created by KLayout-PEX 0.3.12
*** -----------------------------------------------------
***     Extraction Engine: KPEX/2.5D
***     Technology: ihp_sg13g2
***     Date: 2026-09-22 16:34:07
*********************************************************

.SUBCKT sense_fill_clip
Cext_1 CTX_L10_0 CTX_L10_1 262.111a
Cext_2 CTX_L10_0 CTX_L126_0 33.7764a
Cext_3 CTX_L10_0 CTX_L134_0 3.03019a
Cext_4 CTX_L10_0 CTX_L50_0 11.6544a
Cext_5 CTX_L10_0 CTX_L50_1 24.1189a
Cext_6 CTX_L10_0 CTX_L50_2 27.0879a
Cext_7 CTX_L10_0 CTX_L50_3 7.68445a
Cext_8 CTX_L10_0 CTX_L50_4 11.0953a
Cext_9 CTX_L10_0 FILL_L30_0 294.669a
Cext_10 CTX_L10_0 FILL_L30_2 297.61a
Cext_11 CTX_L10_0 FILL_L30_4 297.61a
Cext_12 CTX_L10_0 FILL_L30_6 97.4631a
Cext_13 CTX_L10_0 FILL_L8_0 190.124a
Cext_14 CTX_L10_0 FILL_L8_1 2.81348a
Cext_15 CTX_L10_0 FILL_L8_2 300.411a
Cext_16 CTX_L10_0 FILL_L8_3 4.41577a
Cext_17 CTX_L10_0 FILL_L8_4 300.411a
Cext_18 CTX_L10_0 FILL_L8_5 4.41577a
Cext_19 CTX_L10_0 FILL_L8_6 300.411a
Cext_20 CTX_L10_0 FILL_L8_7 4.41577a
Cext_21 CTX_L10_0 FILL_L8_8 110.287a
Cext_22 CTX_L10_0 FILL_L8_9 1.60229a
Cext_23 CTX_L10_0 VSUBS 840.848a
Cext_24 CTX_L10_1 CTX_L126_0 28.9272a
Cext_25 CTX_L10_1 CTX_L134_0 0.447455a
Cext_26 CTX_L10_1 CTX_L50_2 4.01055a
Cext_27 CTX_L10_1 CTX_L50_3 6.22675a
Cext_28 CTX_L10_1 CTX_L50_4 28.636a
Cext_29 CTX_L10_1 CTX_L50_5 92.488a
Cext_30 CTX_L10_1 CTX_L50_6 30.6383a
Cext_31 CTX_L10_1 FILL_L30_0 101.523a
Cext_32 CTX_L10_1 FILL_L30_1 7.61238a
Cext_33 CTX_L10_1 FILL_L30_2 101.523a
Cext_34 CTX_L10_1 FILL_L30_3 7.61238a
Cext_35 CTX_L10_1 FILL_L30_4 101.523a
Cext_36 CTX_L10_1 FILL_L30_5 7.61238a
Cext_37 CTX_L10_1 FILL_L30_6 32.2335a
Cext_38 CTX_L10_1 FILL_L30_7 2.41693a
Cext_39 CTX_L10_1 FILL_L8_0 9.83092a
Cext_40 CTX_L10_1 FILL_L8_1 135.564a
Cext_41 CTX_L10_1 FILL_L8_2 15.4297a
Cext_42 CTX_L10_1 FILL_L8_3 214.778a
Cext_43 CTX_L10_1 FILL_L8_4 15.4297a
Cext_44 CTX_L10_1 FILL_L8_5 214.778a
Cext_45 CTX_L10_1 FILL_L8_6 15.4297a
Cext_46 CTX_L10_1 FILL_L8_7 214.778a
Cext_47 CTX_L10_1 FILL_L8_8 5.59878a
Cext_48 CTX_L10_1 FILL_L8_9 79.2145a
Cext_49 CTX_L10_1 N 1.1274f
Cext_50 CTX_L10_1 VSUBS 403.277a
Cext_51 CTX_L10_4 CTX_L10_5 309.641a
Cext_52 CTX_L10_4 CTX_L50_10 9.17974a
Cext_53 CTX_L10_4 CTX_L50_11 7.68445a
Cext_54 CTX_L10_4 CTX_L50_12 6.22675a
Cext_55 CTX_L10_4 CTX_L50_8 31.1222a
Cext_56 CTX_L10_4 CTX_L50_9 10.3098a
Cext_57 CTX_L10_4 CTX_L8_0 0.614242a
Cext_58 CTX_L10_4 FILL_L30_1 232.934a
Cext_59 CTX_L10_4 FILL_L30_3 235.874a
Cext_60 CTX_L10_4 FILL_L30_5 235.874a
Cext_61 CTX_L10_4 FILL_L30_7 77.8621a
Cext_62 CTX_L10_4 FILL_L8_1 128.156a
Cext_63 CTX_L10_4 FILL_L8_3 203.152a
Cext_64 CTX_L10_4 FILL_L8_5 203.152a
Cext_65 CTX_L10_4 FILL_L8_7 203.152a
Cext_66 CTX_L10_4 FILL_L8_9 74.9959a
Cext_67 CTX_L10_4 P 3.3183f
Cext_68 CTX_L10_4 VSUBS 359.627a
Cext_69 CTX_L10_5 CTX_L10_6 1.1274f
Cext_70 CTX_L10_5 CTX_L126_0 6.10105a
Cext_71 CTX_L10_5 CTX_L126_1 25.2859a
Cext_72 CTX_L10_5 CTX_L134_0 2.91921a
Cext_73 CTX_L10_5 CTX_L50_10 6.22675a
Cext_74 CTX_L10_5 CTX_L50_11 7.68445a
Cext_75 CTX_L10_5 CTX_L50_12 24.1189a
Cext_76 CTX_L10_5 CTX_L50_13 27.0879a
Cext_77 CTX_L10_5 CTX_L50_9 4.99167a
Cext_78 CTX_L10_5 CTX_L8_0 10.2295a
Cext_79 CTX_L10_5 FILL_L30_1 259.694a
Cext_80 CTX_L10_5 FILL_L30_3 262.635a
Cext_81 CTX_L10_5 FILL_L30_5 262.635a
Cext_82 CTX_L10_5 FILL_L30_7 86.3585a
Cext_83 CTX_L10_5 FILL_L8_1 11.3925a
Cext_84 CTX_L10_5 FILL_L8_3 17.8807a
Cext_85 CTX_L10_5 FILL_L8_5 17.8807a
Cext_86 CTX_L10_5 FILL_L8_7 17.8807a
Cext_87 CTX_L10_5 FILL_L8_9 6.48813a
Cext_88 CTX_L10_5 VSUBS 591.812a
Cext_89 CTX_L10_6 CTX_L126_1 41.2566a
Cext_90 CTX_L10_6 CTX_L134_0 0.381402a
Cext_91 CTX_L10_6 CTX_L50_13 10.3098a
Cext_92 CTX_L10_6 CTX_L50_14 92.488a
Cext_93 CTX_L10_6 CTX_L50_15 30.6383a
Cext_94 CTX_L10_6 CTX_L50_16 11.6544a
Cext_95 CTX_L10_6 CTX_L8_0 33.645a
Cext_96 CTX_L10_6 FILL_L30_1 81.1564a
Cext_97 CTX_L10_6 FILL_L30_3 81.1564a
Cext_98 CTX_L10_6 FILL_L30_5 81.1564a
Cext_99 CTX_L10_6 FILL_L30_7 25.7671a
Cext_100 CTX_L10_6 FILL_L8_1 0.820763a
Cext_101 CTX_L10_6 FILL_L8_3 1.28819a
Cext_102 CTX_L10_6 FILL_L8_5 1.28819a
Cext_103 CTX_L10_6 FILL_L8_7 1.28819a
Cext_104 CTX_L10_6 FILL_L8_9 0.46743a
Cext_105 CTX_L10_6 VSUBS 927.366a
Cext_106 CTX_L126_0 CTX_L126_1 616.272a
Cext_107 CTX_L126_0 CTX_L134_0 128.848a
Cext_108 CTX_L126_0 CTX_L50_0 12.9421a
Cext_109 CTX_L126_0 CTX_L50_1 30.5182a
Cext_110 CTX_L126_0 CTX_L50_10 29.5923a
Cext_111 CTX_L126_0 CTX_L50_11 24.6521a
Cext_112 CTX_L126_0 CTX_L50_12 20.6614a
Cext_113 CTX_L126_0 CTX_L50_2 51.6486a
Cext_114 CTX_L126_0 CTX_L50_3 201.673a
Cext_115 CTX_L126_0 CTX_L50_4 262.971a
Cext_116 CTX_L126_0 CTX_L50_5 116.729a
Cext_117 CTX_L126_0 CTX_L50_6 62.9859a
Cext_118 CTX_L126_0 CTX_L50_7 57.6862a
Cext_119 CTX_L126_0 CTX_L50_8 42.6655a
Cext_120 CTX_L126_0 CTX_L50_9 35.6077a
Cext_121 CTX_L126_0 CTX_L8_0 1.14166a
Cext_122 CTX_L126_0 FILL_L30_0 150.806a
Cext_123 CTX_L126_0 FILL_L30_1 69.1856a
Cext_124 CTX_L126_0 FILL_L30_2 155.367a
Cext_125 CTX_L126_0 FILL_L30_3 69.1856a
Cext_126 CTX_L126_0 FILL_L30_4 155.367a
Cext_127 CTX_L126_0 FILL_L30_5 69.1856a
Cext_128 CTX_L126_0 FILL_L30_6 52.0544a
Cext_129 CTX_L126_0 FILL_L30_7 21.9664a
Cext_130 CTX_L126_0 FILL_L8_0 11.3973a
Cext_131 CTX_L126_0 FILL_L8_1 22.219a
Cext_132 CTX_L126_0 FILL_L8_2 29.1782a
Cext_133 CTX_L126_0 FILL_L8_3 40.6004a
Cext_134 CTX_L126_0 FILL_L8_4 22.5701a
Cext_135 CTX_L126_0 FILL_L8_5 37.3833a
Cext_136 CTX_L126_0 FILL_L8_6 9.35394a
Cext_137 CTX_L126_0 FILL_L8_7 30.949a
Cext_138 CTX_L126_0 FILL_L8_8 0.996353a
Cext_139 CTX_L126_0 FILL_L8_9 10.2099a
Cext_140 CTX_L126_0 P 20.104a
Cext_141 CTX_L126_0 VSUBS 682.181a
Cext_142 CTX_L126_1 CTX_L134_0 115.798a
Cext_143 CTX_L126_1 CTX_L50_10 39.0197a
Cext_144 CTX_L126_1 CTX_L50_11 46.4815a
Cext_145 CTX_L126_1 CTX_L50_12 79.3915a
Cext_146 CTX_L126_1 CTX_L50_13 149.305a
Cext_147 CTX_L126_1 CTX_L50_14 161.25a
Cext_148 CTX_L126_1 CTX_L50_15 161.25a
Cext_149 CTX_L126_1 CTX_L50_16 70.8875a
Cext_150 CTX_L126_1 CTX_L50_5 2.54692a
Cext_151 CTX_L126_1 CTX_L50_6 16.0914a
Cext_152 CTX_L126_1 CTX_L50_7 18.9697a
Cext_153 CTX_L126_1 CTX_L50_8 26.9937a
Cext_154 CTX_L126_1 CTX_L50_9 32.462a
Cext_155 CTX_L126_1 CTX_L8_0 21.7668a
Cext_156 CTX_L126_1 FILL_L30_1 116.91a
Cext_157 CTX_L126_1 FILL_L30_3 118.096a
Cext_158 CTX_L126_1 FILL_L30_5 118.096a
Cext_159 CTX_L126_1 FILL_L30_7 38.204a
Cext_160 CTX_L126_1 FILL_L8_1 14.682a
Cext_161 CTX_L126_1 FILL_L8_3 27.4196a
Cext_162 CTX_L126_1 FILL_L8_5 24.8582a
Cext_163 CTX_L126_1 FILL_L8_7 19.7356a
Cext_164 CTX_L126_1 FILL_L8_9 6.2318a
Cext_165 CTX_L126_1 P 14.9205a
Cext_166 CTX_L126_1 VSUBS 1.04247f
Cext_167 CTX_L134_0 CTX_L50_0 4.41091a
Cext_168 CTX_L134_0 CTX_L50_1 10.2075a
Cext_169 CTX_L134_0 CTX_L50_10 8.82182a
Cext_170 CTX_L134_0 CTX_L50_11 8.82182a
Cext_171 CTX_L134_0 CTX_L50_12 9.921a
Cext_172 CTX_L134_0 CTX_L50_13 1.50195a
Cext_173 CTX_L134_0 CTX_L50_15 0.695795a
Cext_174 CTX_L134_0 CTX_L50_16 4.70131a
Cext_175 CTX_L134_0 CTX_L50_2 10.9033a
Cext_176 CTX_L134_0 CTX_L50_3 9.45948a
Cext_177 CTX_L134_0 CTX_L50_4 0.343972a
Cext_178 CTX_L134_0 CTX_L50_5 2.00865a
Cext_179 CTX_L134_0 CTX_L50_6 8.82182a
Cext_180 CTX_L134_0 CTX_L50_7 9.51762a
Cext_181 CTX_L134_0 CTX_L50_8 9.51762a
Cext_182 CTX_L134_0 CTX_L50_9 8.82182a
Cext_183 CTX_L134_0 CTX_L8_0 0.233864a
Cext_184 CTX_L134_0 FILL_L30_4 40.365a
Cext_185 CTX_L134_0 FILL_L30_5 43.0786a
Cext_186 CTX_L134_0 FILL_L30_6 15.6424a
Cext_187 CTX_L134_0 FILL_L30_7 17.0931a
Cext_188 CTX_L134_0 FILL_L8_4 7.27046a
Cext_189 CTX_L134_0 FILL_L8_5 5.98743a
Cext_190 CTX_L134_0 FILL_L8_6 6.17305a
Cext_191 CTX_L134_0 FILL_L8_7 14.0195a
Cext_192 CTX_L134_0 FILL_L8_8 0.709645a
Cext_193 CTX_L134_0 FILL_L8_9 4.47355a
Cext_194 CTX_L134_0 N 0.671463a
Cext_195 CTX_L134_0 P 5.34524a
Cext_196 CTX_L134_0 VSUBS 497.46a
Cext_197 CTX_L50_0 CTX_L50_1 3.48775f
Cext_198 CTX_L50_0 FILL_L30_0 36.9797a
Cext_199 CTX_L50_0 FILL_L30_2 36.9797a
Cext_200 CTX_L50_0 FILL_L30_4 36.9797a
Cext_201 CTX_L50_0 FILL_L30_6 11.7411a
Cext_202 CTX_L50_0 FILL_L8_0 6.77364a
Cext_203 CTX_L50_0 FILL_L8_2 11.7461a
Cext_204 CTX_L50_0 FILL_L8_4 11.2014a
Cext_205 CTX_L50_0 FILL_L8_6 10.1118a
Cext_206 CTX_L50_0 FILL_L8_8 3.58878a
Cext_207 CTX_L50_0 VSUBS 598.907a
Cext_208 CTX_L50_1 CTX_L50_2 796.238a
Cext_209 CTX_L50_1 FILL_L30_0 227.649a
Cext_210 CTX_L50_1 FILL_L30_2 230.024a
Cext_211 CTX_L50_1 FILL_L30_4 230.024a
Cext_212 CTX_L50_1 FILL_L30_6 75.4337a
Cext_213 CTX_L50_1 FILL_L8_0 10.9939a
Cext_214 CTX_L50_1 FILL_L8_2 27.2772a
Cext_215 CTX_L50_1 FILL_L8_4 21.7104a
Cext_216 CTX_L50_1 FILL_L8_6 10.8028a
Cext_217 CTX_L50_1 FILL_L8_8 2.23905a
Cext_218 CTX_L50_1 VSUBS 32.3709a
Cext_219 CTX_L50_10 CTX_L50_11 3.48775f
Cext_220 CTX_L50_10 CTX_L50_9 3.48775f
Cext_221 CTX_L50_10 CTX_L8_0 0.597385a
Cext_222 CTX_L50_10 FILL_L30_1 161.094a
Cext_223 CTX_L50_10 FILL_L30_3 163.47a
Cext_224 CTX_L50_10 FILL_L30_5 163.47a
Cext_225 CTX_L50_10 FILL_L30_7 54.3026a
Cext_226 CTX_L50_10 FILL_L8_1 3.22391a
Cext_227 CTX_L50_10 FILL_L8_3 9.07349a
Cext_228 CTX_L50_10 FILL_L8_5 7.04443a
Cext_229 CTX_L50_10 FILL_L8_7 3.10695a
Cext_230 CTX_L50_10 FILL_L8_9 0.684269a
Cext_231 CTX_L50_10 VSUBS 30.1317a
Cext_232 CTX_L50_11 CTX_L50_12 3.48775f
Cext_233 CTX_L50_11 CTX_L8_0 1.90641a
Cext_234 CTX_L50_11 FILL_L30_1 161.094a
Cext_235 CTX_L50_11 FILL_L30_3 163.47a
Cext_236 CTX_L50_11 FILL_L30_5 163.47a
Cext_237 CTX_L50_11 FILL_L30_7 54.3026a
Cext_238 CTX_L50_11 FILL_L8_1 0.433493a
Cext_239 CTX_L50_11 FILL_L8_3 1.18765a
Cext_240 CTX_L50_11 FILL_L8_5 0.89074a
Cext_241 CTX_L50_11 FILL_L8_7 0.296913a
Cext_242 CTX_L50_11 VSUBS 44.0697a
Cext_243 CTX_L50_12 CTX_L50_13 796.238a
Cext_244 CTX_L50_12 CTX_L8_0 2.17959a
Cext_245 CTX_L50_12 FILL_L30_1 250.974a
Cext_246 CTX_L50_12 FILL_L30_3 253.35a
Cext_247 CTX_L50_12 FILL_L30_5 253.35a
Cext_248 CTX_L50_12 FILL_L30_7 82.8395a
Cext_249 CTX_L50_12 FILL_L8_1 0.413372a
Cext_250 CTX_L50_12 FILL_L8_3 1.13253a
Cext_251 CTX_L50_12 FILL_L8_5 0.849395a
Cext_252 CTX_L50_12 FILL_L8_7 0.283132a
Cext_253 CTX_L50_12 VSUBS 71.2256a
Cext_254 CTX_L50_13 CTX_L50_14 3.48775f
Cext_255 CTX_L50_13 CTX_L8_0 3.17679a
Cext_256 CTX_L50_13 FILL_L30_1 213.498a
Cext_257 CTX_L50_13 FILL_L30_3 215.874a
Cext_258 CTX_L50_13 FILL_L30_5 215.874a
Cext_259 CTX_L50_13 FILL_L30_7 70.9409a
Cext_260 CTX_L50_13 FILL_L8_1 0.308052a
Cext_261 CTX_L50_13 FILL_L8_3 0.843979a
Cext_262 CTX_L50_13 FILL_L8_5 0.632984a
Cext_263 CTX_L50_13 FILL_L8_7 0.210995a
Cext_264 CTX_L50_13 VSUBS 86.8837a
Cext_265 CTX_L50_14 CTX_L50_15 3.48775f
Cext_266 CTX_L50_14 FILL_L30_1 34.2393a
Cext_267 CTX_L50_14 FILL_L30_3 34.2393a
Cext_268 CTX_L50_14 FILL_L30_5 34.2393a
Cext_269 CTX_L50_14 FILL_L30_7 10.871a
Cext_270 CTX_L50_14 VSUBS 67.9319a
Cext_271 CTX_L50_15 CTX_L50_16 1.29649f
Cext_272 CTX_L50_15 CTX_L8_0 11.2951a
Cext_273 CTX_L50_15 FILL_L30_1 13.5446a
Cext_274 CTX_L50_15 FILL_L30_3 13.5446a
Cext_275 CTX_L50_15 FILL_L30_5 13.5446a
Cext_276 CTX_L50_15 FILL_L30_7 4.3004a
Cext_277 CTX_L50_15 FILL_L8_1 0.726243a
Cext_278 CTX_L50_15 FILL_L8_3 1.13984a
Cext_279 CTX_L50_15 FILL_L8_5 1.13984a
Cext_280 CTX_L50_15 FILL_L8_7 1.13984a
Cext_281 CTX_L50_15 FILL_L8_9 0.4136a
Cext_282 CTX_L50_15 VSUBS 159.538a
Cext_283 CTX_L50_16 CTX_L8_0 14.4281a
Cext_284 CTX_L50_16 FILL_L30_1 2.31776a
Cext_285 CTX_L50_16 FILL_L30_3 2.31776a
Cext_286 CTX_L50_16 FILL_L30_5 2.31776a
Cext_287 CTX_L50_16 FILL_L30_7 0.735889a
Cext_288 CTX_L50_16 FILL_L8_1 0.114383a
Cext_289 CTX_L50_16 FILL_L8_3 0.152511a
Cext_290 CTX_L50_16 FILL_L8_5 0.266894a
Cext_291 CTX_L50_16 FILL_L8_7 0.228767a
Cext_292 CTX_L50_16 VSUBS 680.026a
Cext_293 CTX_L50_2 CTX_L50_3 1.29649f
Cext_294 CTX_L50_2 FILL_L30_0 309.442a
Cext_295 CTX_L50_2 FILL_L30_2 311.817a
Cext_296 CTX_L50_2 FILL_L30_4 311.817a
Cext_297 CTX_L50_2 FILL_L30_6 101.403a
Cext_298 CTX_L50_2 FILL_L8_0 11.7681a
Cext_299 CTX_L50_2 FILL_L8_2 32.2413a
Cext_300 CTX_L50_2 FILL_L8_4 24.4801a
Cext_301 CTX_L50_2 FILL_L8_6 9.18382a
Cext_302 CTX_L50_2 FILL_L8_8 0.855336a
Cext_303 CTX_L50_2 VSUBS 35.4606a
Cext_304 CTX_L50_3 CTX_L50_4 796.238a
Cext_305 CTX_L50_3 FILL_L30_0 309.442a
Cext_306 CTX_L50_3 FILL_L30_2 311.817a
Cext_307 CTX_L50_3 FILL_L30_4 311.817a
Cext_308 CTX_L50_3 FILL_L30_6 101.403a
Cext_309 CTX_L50_3 FILL_L8_0 4.48045a
Cext_310 CTX_L50_3 FILL_L8_1 0.384115a
Cext_311 CTX_L50_3 FILL_L8_2 12.2752a
Cext_312 CTX_L50_3 FILL_L8_3 1.05237a
Cext_313 CTX_L50_3 FILL_L8_4 9.20641a
Cext_314 CTX_L50_3 FILL_L8_5 0.789277a
Cext_315 CTX_L50_3 FILL_L8_6 3.0688a
Cext_316 CTX_L50_3 FILL_L8_7 0.263092a
Cext_317 CTX_L50_3 VSUBS 77.3549a
Cext_318 CTX_L50_4 CTX_L50_5 3.48775f
Cext_319 CTX_L50_4 CTX_L8_0 0.456234a
Cext_320 CTX_L50_4 FILL_L30_0 170.318a
Cext_321 CTX_L50_4 FILL_L30_1 3.45656a
Cext_322 CTX_L50_4 FILL_L30_2 170.556a
Cext_323 CTX_L50_4 FILL_L30_3 3.45656a
Cext_324 CTX_L50_4 FILL_L30_4 170.556a
Cext_325 CTX_L50_4 FILL_L30_5 3.45656a
Cext_326 CTX_L50_4 FILL_L30_6 54.3915a
Cext_327 CTX_L50_4 FILL_L30_7 1.09746a
Cext_328 CTX_L50_4 FILL_L8_1 11.2409a
Cext_329 CTX_L50_4 FILL_L8_2 0.102657a
Cext_330 CTX_L50_4 FILL_L8_3 18.0945a
Cext_331 CTX_L50_4 FILL_L8_5 17.9741a
Cext_332 CTX_L50_4 FILL_L8_7 17.9741a
Cext_333 CTX_L50_4 FILL_L8_9 6.73317a
Cext_334 CTX_L50_4 VSUBS 76.0637a
Cext_335 CTX_L50_5 CTX_L50_6 3.48775f
Cext_336 CTX_L50_5 FILL_L30_0 18.617a
Cext_337 CTX_L50_5 FILL_L30_1 6.14975a
Cext_338 CTX_L50_5 FILL_L30_2 18.617a
Cext_339 CTX_L50_5 FILL_L30_3 6.14975a
Cext_340 CTX_L50_5 FILL_L30_4 18.617a
Cext_341 CTX_L50_5 FILL_L30_5 6.14975a
Cext_342 CTX_L50_5 FILL_L30_6 5.91089a
Cext_343 CTX_L50_5 FILL_L30_7 1.95254a
Cext_344 CTX_L50_5 FILL_L8_1 9.73351a
Cext_345 CTX_L50_5 FILL_L8_3 15.2768a
Cext_346 CTX_L50_5 FILL_L8_5 15.2768a
Cext_347 CTX_L50_5 FILL_L8_7 15.2768a
Cext_348 CTX_L50_5 FILL_L8_9 5.5433a
Cext_349 CTX_L50_5 VSUBS 29.8137a
Cext_350 CTX_L50_6 CTX_L50_7 3.48775f
Cext_351 CTX_L50_6 CTX_L8_0 0.739419a
Cext_352 CTX_L50_6 FILL_L30_0 9.8875a
Cext_353 CTX_L50_6 FILL_L30_1 10.9605a
Cext_354 CTX_L50_6 FILL_L30_2 9.8875a
Cext_355 CTX_L50_6 FILL_L30_3 10.9605a
Cext_356 CTX_L50_6 FILL_L30_4 9.8875a
Cext_357 CTX_L50_6 FILL_L30_5 10.9605a
Cext_358 CTX_L50_6 FILL_L30_6 3.13928a
Cext_359 CTX_L50_6 FILL_L30_7 3.47996a
Cext_360 CTX_L50_6 FILL_L8_1 16.8159a
Cext_361 CTX_L50_6 FILL_L8_3 26.7609a
Cext_362 CTX_L50_6 FILL_L8_5 26.7609a
Cext_363 CTX_L50_6 FILL_L8_7 26.7609a
Cext_364 CTX_L50_6 FILL_L8_9 9.94498a
Cext_365 CTX_L50_6 N 30.6383a
Cext_366 CTX_L50_6 VSUBS 40.5513a
Cext_367 CTX_L50_7 CTX_L50_8 1.29649f
Cext_368 CTX_L50_7 FILL_L30_0 5.64039a
Cext_369 CTX_L50_7 FILL_L30_1 63.9882a
Cext_370 CTX_L50_7 FILL_L30_2 5.64039a
Cext_371 CTX_L50_7 FILL_L30_3 63.9882a
Cext_372 CTX_L50_7 FILL_L30_4 5.64039a
Cext_373 CTX_L50_7 FILL_L30_5 63.9882a
Cext_374 CTX_L50_7 FILL_L30_6 1.79082a
Cext_375 CTX_L50_7 FILL_L30_7 20.3163a
Cext_376 CTX_L50_7 FILL_L8_1 11.2828a
Cext_377 CTX_L50_7 FILL_L8_3 19.5214a
Cext_378 CTX_L50_7 FILL_L8_5 18.4602a
Cext_379 CTX_L50_7 FILL_L8_7 16.3379a
Cext_380 CTX_L50_7 FILL_L8_9 5.5433a
Cext_381 CTX_L50_7 N 92.488a
Cext_382 CTX_L50_7 P 33.4497a
Cext_383 CTX_L50_7 VSUBS 32.8089a
Cext_384 CTX_L50_8 CTX_L50_9 3.48775f
Cext_385 CTX_L50_8 FILL_L30_1 176.147a
Cext_386 CTX_L50_8 FILL_L30_3 178.523a
Cext_387 CTX_L50_8 FILL_L30_5 178.523a
Cext_388 CTX_L50_8 FILL_L30_7 59.0819a
Cext_389 CTX_L50_8 FILL_L8_1 7.91898a
Cext_390 CTX_L50_8 FILL_L8_3 16.1576a
Cext_391 CTX_L50_8 FILL_L8_5 13.9752a
Cext_392 CTX_L50_8 FILL_L8_7 9.61036a
Cext_393 CTX_L50_8 FILL_L8_9 2.69529a
Cext_394 CTX_L50_8 P 33.1893a
Cext_395 CTX_L50_8 VSUBS 26.6788a
Cext_396 CTX_L50_9 CTX_L8_0 0.435336a
Cext_397 CTX_L50_9 FILL_L30_1 161.094a
Cext_398 CTX_L50_9 FILL_L30_3 163.47a
Cext_399 CTX_L50_9 FILL_L30_5 163.47a
Cext_400 CTX_L50_9 FILL_L30_7 54.3026a
Cext_401 CTX_L50_9 FILL_L8_1 5.22476a
Cext_402 CTX_L50_9 FILL_L8_3 14.3144a
Cext_403 CTX_L50_9 FILL_L8_5 11.0349a
Cext_404 CTX_L50_9 FILL_L8_7 4.70209a
Cext_405 CTX_L50_9 FILL_L8_9 0.855336a
Cext_406 CTX_L50_9 VSUBS 21.2726a
Cext_407 CTX_L8_0 FILL_L30_0 0.18274a
Cext_408 CTX_L8_0 FILL_L30_1 23.4633a
Cext_409 CTX_L8_0 FILL_L30_2 0.18274a
Cext_410 CTX_L8_0 FILL_L30_3 23.4633a
Cext_411 CTX_L8_0 FILL_L30_4 0.121826a
Cext_412 CTX_L8_0 FILL_L30_5 22.8476a
Cext_413 CTX_L8_0 FILL_L30_7 6.86309a
Cext_414 CTX_L8_0 FILL_L8_1 15.3925a
Cext_415 CTX_L8_0 FILL_L8_3 24.1587a
Cext_416 CTX_L8_0 FILL_L8_5 24.1587a
Cext_417 CTX_L8_0 FILL_L8_7 24.1587a
Cext_418 CTX_L8_0 FILL_L8_9 8.76614a
Cext_419 CTX_L8_0 N 0.360981a
Cext_420 CTX_L8_0 P 0.423075a
Cext_421 CTX_L8_0 VSUBS 1.5551f
Cext_422 FILL_L30_0 FILL_L30_1 77.0926a
Cext_423 FILL_L30_0 FILL_L30_2 77.0926a
Cext_424 FILL_L30_0 FILL_L8_0 136.268a
Cext_425 FILL_L30_0 FILL_L8_1 36.3903a
Cext_426 FILL_L30_0 FILL_L8_2 131.498a
Cext_427 FILL_L30_0 FILL_L8_3 24.2602a
Cext_428 FILL_L30_0 N 6.98188a
Cext_429 FILL_L30_0 P 2.29022a
Cext_430 FILL_L30_0 VSUBS 381.466a
Cext_431 FILL_L30_1 FILL_L30_3 77.0926a
Cext_432 FILL_L30_1 FILL_L8_1 101.646a
Cext_433 FILL_L30_1 FILL_L8_3 88.9737a
Cext_434 FILL_L30_1 N 25.4668a
Cext_435 FILL_L30_1 P 87.4394a
Cext_436 FILL_L30_1 VSUBS 411.826a
Cext_437 FILL_L30_2 FILL_L30_3 77.0926a
Cext_438 FILL_L30_2 FILL_L30_4 77.0926a
Cext_439 FILL_L30_2 FILL_L8_2 99.3167a
Cext_440 FILL_L30_2 FILL_L8_3 12.1301a
Cext_441 FILL_L30_2 FILL_L8_4 186.745a
Cext_442 FILL_L30_2 FILL_L8_5 48.5204a
Cext_443 FILL_L30_2 N 6.98188a
Cext_444 FILL_L30_2 P 2.29022a
Cext_445 FILL_L30_2 VSUBS 294.54a
Cext_446 FILL_L30_3 FILL_L30_5 77.0926a
Cext_447 FILL_L30_3 FILL_L8_3 62.0005a
Cext_448 FILL_L30_3 FILL_L8_5 138.165a
Cext_449 FILL_L30_3 N 25.4668a
Cext_450 FILL_L30_3 P 88.9097a
Cext_451 FILL_L30_3 VSUBS 327.978a
Cext_452 FILL_L30_4 FILL_L30_5 77.0926a
Cext_453 FILL_L30_4 FILL_L30_6 77.0926a
Cext_454 FILL_L30_4 FILL_L8_4 45.3965a
Cext_455 FILL_L30_4 FILL_L8_6 221.114a
Cext_456 FILL_L30_4 FILL_L8_7 72.7806a
Cext_457 FILL_L30_4 N 6.98188a
Cext_458 FILL_L30_4 P 2.29022a
Cext_459 FILL_L30_4 VSUBS 297.9a
Cext_460 FILL_L30_5 FILL_L30_7 77.0926a
Cext_461 FILL_L30_5 FILL_L8_5 23.6851a
Cext_462 FILL_L30_5 FILL_L8_7 176.462a
Cext_463 FILL_L30_5 N 25.4668a
Cext_464 FILL_L30_5 P 88.9097a
Cext_465 FILL_L30_5 VSUBS 327.909a
Cext_466 FILL_L30_6 FILL_L30_7 24.4769a
Cext_467 FILL_L30_6 FILL_L8_6 9.11484a
Cext_468 FILL_L30_6 FILL_L8_8 81.74a
Cext_469 FILL_L30_6 FILL_L8_9 30.8104a
Cext_470 FILL_L30_6 N 2.21675a
Cext_471 FILL_L30_6 P 0.727145a
Cext_472 FILL_L30_6 VSUBS 228.111a
Cext_473 FILL_L30_7 FILL_L8_7 4.75557a
Cext_474 FILL_L30_7 FILL_L8_9 68.512a
Cext_475 FILL_L30_7 N 8.08572a
Cext_476 FILL_L30_7 P 29.7148a
Cext_477 FILL_L30_7 VSUBS 239.722a
Cext_478 FILL_L8_0 FILL_L8_1 44.4068a
Cext_479 FILL_L8_0 FILL_L8_2 54.5626a
Cext_480 FILL_L8_0 VSUBS 524.989a
Cext_481 FILL_L8_1 FILL_L8_3 69.6968a
Cext_482 FILL_L8_1 N 121.075a
Cext_483 FILL_L8_1 P 88.4757a
Cext_484 FILL_L8_1 VSUBS 622.421a
Cext_485 FILL_L8_2 FILL_L8_3 69.6968a
Cext_486 FILL_L8_2 FILL_L8_4 54.5626a
Cext_487 FILL_L8_2 VSUBS 680.869a
Cext_488 FILL_L8_3 FILL_L8_5 69.6968a
Cext_489 FILL_L8_3 N 192.038a
Cext_490 FILL_L8_3 P 140.873a
Cext_491 FILL_L8_3 VSUBS 794.095a
Cext_492 FILL_L8_4 FILL_L8_5 69.6968a
Cext_493 FILL_L8_4 FILL_L8_6 54.5626a
Cext_494 FILL_L8_4 VSUBS 680.869a
Cext_495 FILL_L8_5 FILL_L8_7 69.6968a
Cext_496 FILL_L8_5 N 192.038a
Cext_497 FILL_L8_5 P 140.873a
Cext_498 FILL_L8_5 VSUBS 794.095a
Cext_499 FILL_L8_6 FILL_L8_7 69.6968a
Cext_500 FILL_L8_6 FILL_L8_8 54.5626a
Cext_501 FILL_L8_6 VSUBS 680.869a
Cext_502 FILL_L8_7 FILL_L8_9 69.6968a
Cext_503 FILL_L8_7 N 192.038a
Cext_504 FILL_L8_7 P 140.873a
Cext_505 FILL_L8_7 VSUBS 794.095a
Cext_506 FILL_L8_8 FILL_L8_9 25.29a
Cext_507 FILL_L8_8 VSUBS 372.805a
Cext_508 FILL_L8_9 N 70.9631a
Cext_509 FILL_L8_9 P 52.3974a
Cext_510 FILL_L8_9 VSUBS 448.769a
Cext_511 N P 3.3183f
Cext_512 N VSUBS 98.231a
Cext_513 P VSUBS 69.9109a
.ENDS sense_fill_clip
